US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with N-[3-amino-1-(piperidinocarbonyl)propyl]-2-(2-naphthalenesulphonamido)acetamide hydrochloride salt to give 2-(2-naphthalenesulphonamido)-N-{1-piperidinocarbonyl-3-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-propyl}acetamide in 17% yield;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | N-[3-amino-1-(piperidinocarbonyl)propyl]-2-(2-naphthalenesulphonamido)acetamide hydrochloride salt | Cl.NCCC(C(=O)N1CCCCC1)NC(CNS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O
product | 2-(2-naphthalenesulphonamido)-N-{1-piperidinocarbonyl-3-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-propyl}acetamide | 17% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCC(=O)NC(CCNC(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)N1CCCCC1 | C32H40N6O5S
